US04908385
(a) Isopropyl dichloroacetate
9 g. (60 mMole) Dichloroacetyl chloride are added dropwise to 20 g. isopropanol cooled to 3° C. in an ice/water bath. The reaction solution is further stirred for 30 minutes at ambient temperature, whereafter excess alcohol is removed in a vacuum at ambient temperature. The residue is subsequently mixed with a mixture of ice water and dichloromethane. After separation of the phases, the organic phase is successively washed with water, aqueous sodium hydrogen carbonate solution and again with water and dried over anhydrous sodium sulphate. After removal of the solvent, there are obtained 7.5 g. (73% of theory) isopropyl dichloroacetate which, after distillation (67°-68° C., 24 hPa) is obtained as a colourless liquid.

reactant | Dichloroacetyl chloride | 60 mMole | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | isopropanol | C(C)(C)O | C3H8O
product | Isopropyl dichloroacetate | ClC(C(=O)OC(C)C)Cl | C5H8Cl2O2
